US09193741B2
Synthesis of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(4-[2-phenoxyacetyl]piperazin-1-yl)-thiazolo[5,4-d]pyrimidine
To a solution of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-piperazin-1-yl-thiazolo[5,4-d]pyrimidine (50 mg, 0.14 mmol) in dichloromethane (4 ml) was added diisopropylethylamine (0.33 mmol, 55 μL) followed by phenoxyacetyl chloride (0.17 mmol). The reaction was stirred at room temperature for 4 hours after which the solvent was removed in vacuo. The resulting residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio gradually ranging from 100% CH2Cl2 to 2% CH3OH in CH2Cl2), yielding the pure title compound (34 mg) which was characterized by its mass spectrum: MS m/z (%): 493 ([M+H]+, 100).

reactant | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-piperazin-1-yl-thiazolo[5,4-d]pyrimidine | 0.14 mmol, 50 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N2CCNCC2 | C17H19FN6S
reactant | diisopropylethylamine | 0.33 mmol, 55 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenoxyacetyl chloride | 0.17 mmol | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(4-[2-phenoxyacetyl]piperazin-1-yl)-thiazolo[5,4-d]pyrimidine | 34 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N2CCN(CC2)C(COC2=CC=CC=C2)=O | C25H25FN6O2S
